US05401851
2-Carbomethoxy-6-methoxybenzenesulfonic acid dimethylamine salt (9.0 mmoles, 2.6 g) was added dropwise at -20° C. to a solution of boron tribromide (27 mmoles, 3.8 ml) in 50 ml methylene chloride and stirred at -20° C. for 10 minutes and at room temperature overnight. The reaction was quenched with water. The pH was adjusted to 8.0 using 2N NaOH. The aqueous solution was washed with methylene chloride. The pH of the water layer was adjusted to 1.0 with 2N HCL. The intermediate was extracted with ethyl acetate and condensed. The solid triturated with ethyl acetate and filtered to yield 1.6 g of 2-carboxy-6-hydroxybenzenesulfonic acid.

reactant | 2-Carbomethoxy-6-methoxybenzenesulfonic acid dimethylamine salt | 9.0 mmoles, 2.6 g | CNC.C(=O)(OC)C1=C(C(=CC=C1)OC)S(=O)(=O)O
reactant | boron tribromide | 27 mmoles, 3.8 ml | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-carboxy-6-hydroxybenzenesulfonic acid | 1.6 g | C(=O)(O)C1=C(C(=CC=C1)O)S(=O)(=O)O | C7H6O6S
